US06518423B1
N,N-Dimethyl-2-[[4-(4,4-dimethyl-2-oxazolin-2-yl)phenyl]hydroxymethyl]imidazole-1-sulfonamide
Similar to Production Example 164, 4.54 g of N,N-dimethyl-2-formylimidazole-1-sulfonamide was treated with 7.0 g of 2-(4-bromophenyl)-4,4-dimethyl-2-oxazoline to thereby give 3.41 g of the title compound.

reactant | N,N-dimethyl-2-formylimidazole-1-sulfonamide | 4.54 g | CN(S(=O)(=O)N1C(=NC=C1)C=O)C | C6H9N3O3S
reactant | 2-(4-bromophenyl)-4,4-dimethyl-2-oxazoline | 7.0 g | BrC1=CC=C(C=C1)C=1OCC(N1)(C)C | C11H12BrNO
product | N,N-Dimethyl-2-[[4-(4,4-dimethyl-2-oxazolin-2-yl)phenyl]hydroxymethyl]imidazole-1-sulfonamide | 3.41 g | CN(S(=O)(=O)N1C(=NC=C1)C(O)C1=CC=C(C=C1)C=1OCC(N1)(C)C)C | C17H22N4O4S
